US06949577B2
Methyl (2S)-2-({2-[(tert-butoxycarbonyl)amino]ethyl}amino)-3-(1-methyl-1H-imidazol-4-yl)propanoate
Methyl (2S)-2-amino-3-(1-methyl-1H-imidazol-4-yl)propanoate dihydrochloride (1.06 g, 4 mmol), sodium acetate (1.3 g, 16 mmol) and 4 Å molecular sieves (500 mg) were added to a solution of tert-butyl N-(2-oxoethyl)carbamate (637 mg, 4 mmol) in methanol (10 ml), and the solution stirred for 10 minutes. Sodium cyanoborohydride (1.3 g, 16 mmol) was then added, and the reaction stirred at room temperature for 72 hours. 2M Hydrochloric acid (2 ml) and water (50 ml) were added, and the solution then basified using saturated sodium bicarbonate solution. The mixture was extracted with ethyl acetate (5×100 ml), the combined organic extracts dried (MgSO4), filtered, and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel using an elution gradient of ethyl acetate:methanol:diethylamine (100:0:0 to 96:2:2) to afford the title compound as a colorless oil, 220 mg, 17% yield.

reactant | Methyl (2S)-2-amino-3-(1-methyl-1H-imidazol-4-yl)propanoate dihydrochloride | 4 mmol, 1.06 g | Cl.Cl.N[C@H](C(=O)OC)CC=1N=CN(C1)C
reactant | sodium acetate | 16 mmol, 1.3 g | C(C)(=O)[O-].[Na+]
reactant | tert-butyl N-(2-oxoethyl)carbamate | 4 mmol, 637 mg | O=CCNC(OC(C)(C)C)=O | C7H13NO3
reactant | Sodium cyanoborohydride | 16 mmol, 1.3 g | C(#N)[BH3-].[Na+]
reactant | Hydrochloric acid | 2M, 2 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | Methyl (2S)-2-({2-[(tert-butoxycarbonyl)amino]ethyl}amino)-3-(1-methyl-1H-imidazol-4-yl)propanoate | 17% yield | C(C)(C)(C)OC(=O)NCCN[C@H](C(=O)OC)CC=1N=CN(C1)C | C15H26N4O4
